US09388176B2
2-(3-methyl-4-nitrophenyl)-1,2,3,4-tetrahydro-2,7-naphthyridine
A mixture of commercially available 1,2,3,4-tetrahydro-2,7-naphthyridine dihydrochloride (207 mg, 1.0 mmol), 5-fluoro-2-nitrotoluene (0.244 mL, 2.0 mmol), and Na2CO3 (0.53 g, 5.0 mmol) in 3.0 mL NMP was heated at 110° C. for 2.5 hours. The solids were filtered off and then rinsed with EtOAc. The EtOAc portion was washed with a H2O/brine mixture, H2O, brine, dried with anhydrous Na2SO4, and evaporated to an oil. The oil was chromatographed eluting with CHCl3/EtOAc and the resulting solid triturated with EtOAc/hexane to give the title compound as a yellow solid (123 mg, 45%). 1H NMR (CDCl3) δ: 8.48 (s, 1H), 8.44 (d, J=5.3 Hz, 1H), 8.14 (d, J=9.1 Hz, 1H), 7.15 (d, J=5.0 Hz, 1H), 6.76 (dd, J=9.2, 2.8 Hz, 1H), 6.68 (d, J=2.9 Hz, 1H), 4.58 (s, 2H), 3.71 (t, J=5.9 Hz, 2H), 3.01 (t, J=5.9 Hz, 2H), 2.68 (s, 3H)

reactant | 1,2,3,4-tetrahydro-2,7-naphthyridine dihydrochloride | 1.0 mmol, 207 mg | Cl.Cl.C1NCCC2=CC=NC=C12
reactant | 5-fluoro-2-nitrotoluene | 2.0 mmol, 0.244 mL | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | Na2CO3 | 5.0 mmol, 0.53 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | NMP | 3.0 mL | CN1CCCC1=O | C5H9NO
product | 2-(3-methyl-4-nitrophenyl)-1,2,3,4-tetrahydro-2,7-naphthyridine | 123 mg, 45% | CC=1C=C(C=CC1[N+](=O)[O-])N1CC2=CN=CC=C2CC1 | C15H15N3O2
